US09255217B2
N-[[4,6-bis[(cyclododecylideneamino)oxy]-1,3,5-triazin-2-yl]oxy]cyclododecanimine
To a cold (0° C.) solution of cyclododecanone oxime (7.89 g, 0.04 mol) in dry pyridine (30 ml) is added cyanuric chloride (1.84 g, 0.01 mol). An exothermic reaction occurs and the temperature rises to 20° C. The solution is then stirred 20 h at room temperature and then poured into 300 ml of ice-cold water. The precipitated solid is filtered off and chromatographed (silica gel, CH2Cl2—C2H5O(CO)CH3 95:5). The pure fraction is recrystallized from ethylacetate-hexane to afford 2.36 g of the title compound as a white solid, m.p. 104-107° C.

reactant | cyclododecanone oxime | 0.04 mol, 7.89 g | C1(CCCCCCCCCCC1)=NO | C12H23NO
reactant | cyanuric chloride | 0.01 mol, 1.84 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-[[4,6-bis[(cyclododecylideneamino)oxy]-1,3,5-triazin-2-yl]oxy]cyclododecanimine | 2.36 g | C1(CCCCCCCCCCC1)=NOC1=NC(=NC(=N1)ON=C1CCCCCCCCCCC1)ON=C1CCCCCCCCCCC1 | C39H66N6O3
